US08975256B2
8-(5-Fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-[N-methyl-N-(pyridin-4-ylcarbonyl)amino]phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 16-1)
A mixture of 8-(5-fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-(pyridin-4-ylcarbonylamino)phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 14-21, 13.9 mg, 0.0251 mmol), cessium carbonate (41.7 mg, 0.128 mmol), and methyl iodide (4.7 μL, 0.075 mmol) was suspended in anhydrous N,N-dimethylformamide (0.5 ml) and stirred for 3 hours at room temperature. The mixture was diluted with ethyl acetate (10 mL). The mixture was washed with water (10 mL) and saturated brine (10 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (4.6 mg) as a yellow amorphous product. (Yield 32%)

reactant | 8-(5-fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-(pyridin-4-ylcarbonylamino)phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.0251 mmol, 13.9 mg | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)NC(=O)C2=CC=NC=C2)OC)C1)C | C32H31FN4O4
reactant | carbonate | 0.128 mmol, 41.7 mg | C([O-])([O-])=O
reactant | methyl iodide | 0.075 mmol, 4.7 μL | CI | CH3I
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 8-(5-Fluoro-2-methylphenoxymethyl)-7-[2-methoxy-4-[N-methyl-N-(pyridin-4-ylcarbonyl)amino]phenyl]-1,3,3-trimethyl-3,4-dihydro-1H-quinoxalin-2-one | 4.6 mg, Yield 32% | FC=1C=CC(=C(OCC=2C(=CC=C3NC(C(N(C23)C)=O)(C)C)C2=C(C=C(C=C2)N(C(=O)C2=CC=NC=C2)C)OC)C1)C | C33H33FN4O4
